US07632829B2
{4-[(E)-3-(3-Chloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-acetaldehyde
A solution of 1.00 g (2.53 mmol) of 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-4-(2,2-diethoxy-ethyl)-[1,4]diazepan-5-one in 10 ml of toluene was treated at RT with 5.22 ml formic acid and 1.5 ml water. The reaction was stirred for 1.5 h, evaporated and neutralized with aqueous saturated NaHCO3 and extracted with Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried over Na2SO4 evaporated and purified by flash silica gel column (EtOAc) to yield 0.37 g (45%) of the title compound as off-white foam. MS: 321.3 (MH+, Cl).

reactant | 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-4-(2,2-diethoxy-ethyl)-[1,4]diazepan-5-one | 2.53 mmol, 1.00 g | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCN(C(CC1)=O)CC(OCC)OCC | C20H27ClN2O4
reactant | formic acid | 5.22 ml | C(=O)O | CH2O2
reactant | water | 1.5 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | {4-[(E)-3-(3-Chloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-acetaldehyde | 0.37 g, 45% | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCN(C(CC1)=O)CC=O | C16H17ClN2O3
